US04569996
2-[[4-(3-Methoxy-2-pyridyl)butyl]amino]-5-[(4-pyridyl)hydroxymethyl]-4-(1H)-pyrimidinone
2-[[4-(3-Methoxy-2-pyridyl)butyl]amino]-4-(1H)-pyrimidinone (0.14 g) and pyridine-4-aldehyde (0.06 g) were refluxed in concentrated hydrochloric acid (1 ml) for 5 hours. The solution was cooled and neutralised by the addition of potassium bicarbonate. Water (2 ml) was added, the aqueous layer was then decanted from the red coloured oil which was washed with more water. The oil was subjected to chromatography on silica gel using gradient elution (100% chloroform→2% Methanol in chloroform). The fractions containing the desired product were collected, combined and evaporated under reduced pressure to afford the title compound as an oil; δ(CDCl3) 1.67 (4H, m), 2.80 (2H, t), 3.36 (2H, m), 3.80 (3H, s), 5.72 (1H, s), 7.07 (2H, d), 7.35 (2H, d), 7.49 (1H, s), 7.87 (1H, t), 8.43 (2H, m) ppm.

reactant | 2-[[4-(3-Methoxy-2-pyridyl)butyl]amino]-4-(1H)-pyrimidinone | 0.14 g | COC=1C(=NC=CC1)CCCCNC=1NC=CC(N1)=O | C14H18N4O2
reactant | pyridine-4-aldehyde | 0.06 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | Water | 2 ml | O | H2O
solvent | hydrochloric acid | 1 ml | Cl | ClH
product | 2-[[4-(3-Methoxy-2-pyridyl)butyl]amino]-5-[(4-pyridyl)hydroxymethyl]-4-(1H)-pyrimidinone | COC=1C(=NC=CC1)CCCCNC=1NC=C(C(N1)=O)C(O)C1=CC=NC=C1 | C20H23N5O3
